US09102671B2
A solution of 5-((2R,4S)-4-cyano-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-35) (25 mg, 0.042 mmol) in MeOH (1 mL) was cooled to 0° C. A 1M NaOH solution (0.17 mL, 0.17 mmol) and 30% H2O2 (0.01 mL) were added to the reaction and stirred at 0° C. for 1 hour followed by room temperature for 1 hour. The reaction was concentrated to dryness and the residue was partitioned between EtOAc and H2O. The aqueous layer was extracted twice with EtOAc and the combined organics were dried over Na2SO4, filtered, and concentrated. The residue was purified by silica chromatography with EtOAc/hexane gradient as eluent to yield 5-((2R,4S)-4-carbamoyl-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-54). 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=7.7 Hz, 1 H), 7.78 (s, 1 H), 7.32-7.27 (m, 1H), 7.18 (d, J=8.5 Hz, 4 H), 7.14-7.09 (m, 1 H), 7.00-6.92 (m, 2 H), 6.89 (d, J=8.6 Hz, 4 H), 6.85 (s, 1 H), 6.15 (dd, J=2.7, 7.6 Hz, 1 H), 5.75 (bs, 1 H), 5.54 (bs, 1 H), 5.05 (d, J=7.7 Hz, 1 H), 4.72 (d, J=15.7 Hz, 2 H), 4.51 (d, J=15.8 Hz, 2 H), 4.04-3.97 (m, 1H), 3.88-3.82 (m, 1 H), 3.81 (s, 6 H), 3.23-3.11 (m, 1 H), 2.87-2.73 (m, 1 H), 2.19 (ddd, J=1.4, 6.5, 12.3 Hz, 1 H). MS m/z 608.3 (M+1)+.

reactant | 5-((2R,4S)-4-cyano-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.042 mmol, 25 mg | C(#N)[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C2=CC(=CC=C2)F | C35H32FN5O3
reactant | NaOH | 0.17 mmol, 1M, 0.17 mL | [OH-].[Na+]
reactant | H2O2 | 0.01 mL | OO | H2O2
solvent | MeOH | 1 mL | CO | CH4O
product | 5-((2R,4S)-4-carbamoyl-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(N)(=O)[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C2=CC(=CC=C2)F | C35H34FN5O4
